US07714009B2
1-(3-Hydroxymethylphenyl)-3-mesitylthiourea
To 0.56 g (0.1.4 mmol) of 1-[3-(tert-butyldimethylsilyloxymethyl)phenyl]-3-mesitylthiourea in 10 mL of ethanol was added 10 drops of concentrated hydrochloric acid. After 30 min, the reaction was diluted with water and the precipitate that formed was collected to give 0.35 g (86%) of the title compound as a white powder.

reactant | 1-[3-(tert-butyldimethylsilyloxymethyl)phenyl]-3-mesitylthiourea | 0.56 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C | C23H34N2OSSi
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | water | O | H2O
product | 1-(3-Hydroxymethylphenyl)-3-mesitylthiourea | 0.35 g, 86% | OCC=1C=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C | C17H20N2OS
